US07459452B2
Step 3: Methyl 5-(benzoyloxy)-6-hydroxy-2-pyrrolidin-2-ylpyrimidine-4-carboxylate (C-16).
Methyl 5-(benzoyloxy)-2-[1-(tert-butoxycarbonyl)pyrrolidin-2-yl]-6-hydroxypyrimidine-4-carboxylate C-15 was treated with TFA:CH2Cl2 (3:7) at 0° C. The solution was warmed to room temperature and the progress of the reaction was monitored by MS analysis. After 1 h the reaction was complete and the solvent was removed under reduced pressure using a rotatory evaporator. The product C-16 was precipitated with Et2O and collected by filtration.

reactant | Methyl 5-(benzoyloxy)-2-[1-(tert-butoxycarbonyl)pyrrolidin-2-yl]-6-hydroxypyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C1N(CCC1)C(=O)OC(C)(C)C)C(=O)OC | C22H25N3O7
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Methyl 5-(benzoyloxy)-6-hydroxy-2-pyrrolidin-2-ylpyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=NC1O)C1NCCC1)C(=O)OC | C17H17N3O5
